US05656260
5-benzyloxyhexanal dimethyl acetal: a sodium hydride dispersion (7.2 g of 50% dispersion, 150 mmol, 1.2 equivalents) was washed with hexane (3×50 ml), suspended in DMF (250 ml) and cooled to 5° C. before adding the 5-hydroxyhexanal dimethyl acetal (20.28 g, 125.0 mmol) prepared in (b) in DMF solution (20 ml); the suspension being allowed to warm then up to 20° C. over 1 hour. After 30 minutes benzyl bromide (25.6 g, 150 mmol) was added at 5°-10° C. over 15 minutes and the resulting thick slurry quenched after 30 minutes by the careful addition of water (200 ml). Pentane (250 ml) was added and the layers separated, the aqueous phase was extracted with pentane (3×100 ml) and the combined pentane layers washed with water (2×100 ml) and brine (150 ml) dried (MgSO4) and concentrated. Distillation gave pure 5-benzyloxyhexanal dimethyl acetal (101°-102° C. at 0.05 mm Hg, 122.4 mmol, 98%)

reactant | 5-hydroxyhexanal dimethyl acetal | 125.0 mmol, 20.28 g | COC(CCCC(C)O)OC | C8H18O3
reactant | benzyl bromide | 150 mmol, 25.6 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-benzyloxyhexanal dimethyl acetal | 122.4 mmol, 98% | COC(CCCC(C)OCC1=CC=CC=C1)OC | C15H24O3
